US06291452B1
To a suspension of sodium hydride (0.030 g of a 65% dispersion in mineral oil) in dry N,N-dimethylformamide (5 ml) was added gradually N-[(3RS)-2,3-dihydro-5-isopropyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (0.250 g) at 5˜10° C. in an ice-bath for 30 minutes. The mixture was stirred at the same temperature for 1 hour and then at room temperature for 2 hours. To the above mixture was added dropwise a solution of N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane (0.200 g) in dry N,N-dimethylformamide (5 ml) for 10 minutes and stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo and the residue was taken up with ethyl acetate (100 ml) and a saturated aqueous sodium hydrogen carbonate (50 ml). The organic layer was separated, washed with a brine (50 ml), dried over anhydrous magnesium sulfate and evaporated in vacuo to give a crude product. The product was purified by column chromatography on silica gel with a mixture of chloroform and ethyl acetate (10:1) as an eluent. The fractions containing the desired compound were combined and evaporated in vacuo to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-isopropyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (0.160 g).

reactant | sodium hydride | [H-].[Na+]
reactant | N-[(3RS)-2,3-dihydro-5-isopropyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 0.250 g | C(C)(C)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)NC2=CC(=CC=C2)C | C20H22N4O2
reactant | N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane | 0.200 g | BrCC(=O)N1CC2CCC(C1)CC2 | C10H16BrNO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-isopropyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 0.160 g | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C(C)C)NC(=O)NC1=CC(=CC=C1)C)=O | C30H37N5O3
